US06531477B1
1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(4-(dimethylaminomethyl)-3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one
To a stirred solution of 464 mg (1.0 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one in 10 mL of glacial HOAc was added 0.4 mL of 37% aq. formaldehyde followed by 0.5 mL of 40% aq. dimethylamine. The solution was stirred overnight at RT, and it was then heated to just below reflux for 20 min. The solution was poured into water and extracted with EtOAc. The organic extract was washed (brine), dried (MgSO4), and chromatographed on silica gel (elution with EtOAc) to afford, after removal of solvent, 135 mg (26%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(dimethylaminomethyl)-3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one as an off-white, amorphous solid. Mass spec. (ESI+): 520 (M+H)−.

reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 1.0 mmol, 464 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=CC=C2)O)C(C)C | C21H17Cl3N4O2
reactant | formaldehyde | 0.4 mL | C=O | CH2O
reactant | dimethylamine | 0.5 mL | CNC | C2H7N
reactant | water | O | H2O
solvent | HOAc | 10 mL | CC(=O)O | C2H4O2
product | 1-(2,4,6-Trichlorophenyl)-3-isopropyl-6-(4-(dimethylaminomethyl)-3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=C(C=C2)CN(C)C)O)C(C)C | C24H24Cl3N5O2
